US06846492B2
b) 4-Dodecyloxybenzaldehyde
Dodecyloxybenzene (2.48 g; 9.45 mmol) is dissolved in N-methylformanilide (195.17 g; 9.45 mmol). POCl3 (1.45 g; 159.33 g; 9.45 mmol) is added dropwise with ice-cooling. Stirring is carried out for 1 hour at 25° C., and then for 3 hours at 60° C. Pouring onto ice is then carried out and the pH is adjusted to 6 using sodium hydroxide solution. Extraction is then carried out with tert-butyl methyl ether (2×50 ml), and the combined organic phases are washed with aqueous NaHCO3 solution and dried over Na2SO4. After filtration, concentration to dryness by evaporation is carried out.

reactant | Dodecyloxybenzene | 9.45 mmol, 2.48 g | C(CCCCCCCCCCC)OC1=CC=CC=C1 | C18H30O
reactant | N-methylformanilide | 9.45 mmol, 195.17 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | POCl3 | 9.45 mmol, 1.45 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-Dodecyloxybenzaldehyde | C(CCCCCCCCCCC)OC1=CC=C(C=O)C=C1 | C19H30O2
